US09085555B2
1-{2-[(2S,4R)-2-(3-Chloro-2-fluoro-benzylcarbamoyl)-4-fluoro-pyrrolidin-1-yl]-2-oxo-ethyl}-5-hydroxy-1H-indole-3-carboxylic acid amide
To a suspension of 5-benzyloxy-1-{2-[(2S,4R)-2-(3-chloro-2-fluoro-benzylcarbamoyl)-4-fluoro-pyrrolidin-1-yl]-2-oxo-ethyl}-1H-indole-3-carboxylic acid amide Example 503 (148 mg, 0.255 mmol) in TFA (2.5 mL), cooled to 0° C., was added thioanisole (0.301 mL, 2.55 mmol), and the reaction mixture was stirred at RT for 3 h. Volatiles were evaporated under reduced pressure, and the residue was suspended in a saturated aqueous NaHCO3 solution, followed by freeze-drying in vacuo. The residue was suspended in a small amount of methanol and the solid was filtered off. The filtrate was purified by preparative HPLC (Sunfire, C18-ODB, 5 μm, 30×100 mm, flow: 40 mL/min, 20-100% CH3CN/H2O/20 min, 100% CH3CN/2 min, CH3CN and H2O containing 0.1% TFA). The title compound was obtained as a white solid. MS (LC/MS): 491 [M+H]+; 983 [2M+H]+; tR (HPLC, conditions b): 3.75 min.

reactant | 5-benzyloxy-1-{2-[(2S,4R)-2-(3-chloro-2-fluoro-benzylcarbamoyl)-4-fluoro-pyrrolidin-1-yl]-2-oxo-ethyl}-1H-indole-3-carboxylic acid amide | C(C1=CC=CC=C1)OC=1C=C2C(=CN(C2=CC1)CC(=O)N1[C@@H](C[C@H](C1)F)C(NCC1=C(C(=CC=C1)Cl)F)=O)C(=O)N | C30H27ClF2N4O4
reactant | thioanisole | 2.55 mmol, 0.301 mL | C1(=CC=CC=C1)SC | C7H8S
solvent | TFA | 2.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-{2-[(2S,4R)-2-(3-Chloro-2-fluoro-benzylcarbamoyl)-4-fluoro-pyrrolidin-1-yl]-2-oxo-ethyl}-5-hydroxy-1H-indole-3-carboxylic acid amide | ClC=1C(=C(CNC(=O)[C@H]2N(C[C@@H](C2)F)C(CN2C=C(C3=CC(=CC=C23)O)C(=O)N)=O)C=CC1)F | C23H21ClF2N4O4
